US07745642B2
(±)-2-Chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide
To a solution of 2-chloro-3-(trifluoromethyl)benzoic acid (0.728 g; 3.24 mmol) in DMF (20 ml) and DIPEA (2.5 ml) was added (±)-{[amino(phenyl)methyl]cyclopentyl}methylamine D29 (1.0 g; 3.60 mmol) and HATU (1.23 g; 3.24 mmol). The resulting mixture was allowed to stir at room temperature overnight and then DMF evaporated off in vacuo. Residual material was partitioned between ethyl acetate and water. The organic layer was dried (Na2SO4) and the filtrate evaporated in vacuo. The desired product was isolated by column chromatography on silica gel using 20% diethyl ether to 100% diethyl ether in n-pentane to afford the title compound as a white solid (0.908 g; 61%). 1H NMR (CDCl3) δ: 1.47-1.83 (9H, m), 2.21 (3H, s), 5.1 (1H, m), 7.23-7.43 (6H, m), 7.58 (1H, m), 7.65 (1H, m), 7.73 (1H, m); Mass Spectrum (Electrospray LC/MS), API+: Found 411 (MH+). C21H2235ClF3N2O requires 410. Ret. time 2.04 min.

reactant | 2-chloro-3-(trifluoromethyl)benzoic acid | 3.24 mmol, 0.728 g | ClC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4ClF3O2
reactant | (±)-{[amino(phenyl)methyl]cyclopentyl}methylamine | NC(C1=CC=CC=C1)C1(CCCC1)CN | C13H20N2
reactant | HATU | 3.24 mmol, 1.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DIPEA | 2.5 ml | CCN(C(C)C)C(C)C | C8H19N
product | (±)-2-Chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)NC)C=CC=C1C(F)(F)F | C21H22ClF3N2O
